US06028198
Using the same method as described for (1) of example 3, raw materials at equal weight were added successively. The difference was using a reaction temperature of -10-6° C. during dropuise addition of the toluene solution of 82 g of methyl phenylglyoxylate to cyclopentadiene Grignard reagent. 90 g of methyl 2-phenyl-2-cyclopentyl-2-hydroxy-acetate was obtained in 76.9% yield, nD25 1.5203, boiling point 82-5° C./0.03 mmHg. Silicagel GF 254 thin layer plate; developer: 1,2-dichloroethane, ultraviolet 254 nm fluorescence localization, main spot: Rf=0.72, without impurity spot.

reactant | methyl phenylglyoxylate | 82 g | C1(=CC=CC=C1)C(C(=O)OC)=O | C9H8O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 2-phenyl-2-cyclopentyl-2-hydroxy-acetate | 90 g, 76.9% yield | C1(=CC=CC=C1)C(C(=O)OC)(O)C1CCCC1 | C14H18O3
